US06573288B1
a) 2-p-Tolylsulfanylbenzenesulfonamide
3.0 g of 2-chlorobenzenesulfonamide, 2.0 g of thiocresol and 6.5 g of K2CO3 are stirred at 100° C. for 6 h in 30 ml of DMF and then at 120° C. for 13 h. The reaction mixture is poured onto 200 ml of water and extracted with 500 ml of EA. The organic phase is then washed with 100 ml of a saturated aqueous Na2CO3 solution. It is dried over MgSO4 and the solvent is removed in vacuo. Chromatography on silica gel using DIP yields 1.4 g of white crystals, m.p. 122-124° C.

reactant | 2-chlorobenzenesulfonamide | 3.0 g | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | thiocresol | 2.0 g | C1(=CC=CC=C1S)C | C7H8S
reactant | K2CO3 | 6.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-p-Tolylsulfanylbenzenesulfonamide | 1.4 g | C1(=CC=C(C=C1)SC1=C(C=CC=C1)S(=O)(=O)N)C | C13H13NO2S2
